US06391827B1
Preparation of 1-methylethyl 2-chloro-5-(2,4-dibromo-1-methyl-5-trifluoromethylpyrrol-3-yl)-4-fluorobenzoate (Compound Nr. 9)
Isopropanol (0.2 g; 3.2 mmoles), 1,5-diazabicyclo -[4.3.0]non-5-ene (0.21 g; 1.6 mmoles) are added to a mixture of 2-chloro-5-(2,4-dibromo-1-methyl-5-trifluorometh-ylpyrrol-3-yl)-4-fluorobenzoic acid (0.8 g; 1.6 mmoles) and N,N′-carbonyldiimidazole (0.77 g; 1.6 mmoles) in DMF (4 ml) heated to 40° C. for 1.5 hours, and the mixture is heated to 40° C. for 2 hours. The reaction mixture is poured into water (10 ml), extracted with ethyl ether (3×20 ml), the ether phase is washed with a saturated solution of sodium chloride, anhydrified on sodium sulfate and concentrated in a rotavapor. The raw product obtained (0.8 g) is chromatographed on silica gel, eluating with n-hexane/ethyl acetate 90:10. 0.4 g of product are obtained in the form of a colourless oil.

reactant | Isopropanol | 3.2 mmoles, 0.2 g | C(C)(C)O | C3H8O
reactant | 1,5-diazabicyclo -[4.3.0]non-5-ene | 1.6 mmoles, 0.21 g | N12CCCN=C2CCC1 | C7H12N2
reactant | 2-chloro-5-(2,4-dibromo-1-methyl-5-trifluorometh-ylpyrrol-3-yl)-4-fluorobenzoic acid | 1.6 mmoles, 0.8 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=C(N(C(=C1Br)C(F)(F)F)C)Br | C13H6Br2ClF4NO2
reactant | water | 10 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-methylethyl 2-chloro-5-(2,4-dibromo-1-methyl-5-trifluoromethylpyrrol-3-yl)-4-fluorobenzoate | 0.4 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=C(N(C(=C1Br)C(F)(F)F)C)Br | C16H12Br2ClF4NO2
